US08541461B2
9B. 3-(3,4-Difluoro-phenyl)-N-methyl-3-[4-(1H-pyrazol-4-yl)-phenyl]-propionamide
3-(4-Bromo-phenyl)-3-(3,4-difluoro-phenyl)-N-methyl-propionamide was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1 to give the title compound. LC/MS: (PS-A2) Rt 2.55 [M+H]+ 341.93.

reactant | 3-(4-Bromo-phenyl)-3-(3,4-difluoro-phenyl)-N-methyl-propionamide | BrC1=CC=C(C=C1)C(CC(=O)NC)C1=CC(=C(C=C1)F)F | C16H14BrF2NO
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | 3-(3,4-Difluoro-phenyl)-N-methyl-3-[4-(1H-pyrazol-4-yl)-phenyl]-propionamide | FC=1C=C(C=CC1F)C(CC(=O)NC)C1=CC=C(C=C1)C=1C=NNC1 | C19H17F2N3O
